US08048878B2
Synthesis of [(2R,5S)-5-(2,4,6-trifluorophenyl)pyrrolidin-2-yl]methanol
LAH (724 mg) was added to a solution of ethyl (2R,5S)-5-(2,4,6-trifluorophenyl)pyrrolidine-2-carboxylate (4.34 g) in THF (100 mL) at −15° C. over one hour. The reaction solution was stirred at −15° C. for 19 hours. Water (0.8 mL), a 5 N sodium hydroxide solution (0.8 mL), and water (2.5 mL) were sequentially added to the reaction solution, and the mixture was stirred at room temperature for 30 minutes. The reaction solution was filtered through celite, and the filtrate was concentrated under reduced pressure to obtain 3.68 g of the title compound. The property values of the compound are as follows.

reactant | LAH | 724 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl (2R,5S)-5-(2,4,6-trifluorophenyl)pyrrolidine-2-carboxylate | 4.34 g | FC1=C(C(=CC(=C1)F)F)[C@@H]1CC[C@@H](N1)C(=O)OCC | C13H14F3NO2
reactant | Water | 0.8 mL | O | H2O
reactant | sodium hydroxide | 5 N, 0.8 mL | [OH-].[Na+]
reactant | water | 2.5 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | [(2R,5S)-5-(2,4,6-trifluorophenyl)pyrrolidin-2-yl]methanol | 3.68 g | FC1=C(C(=CC(=C1)F)F)[C@@H]1CC[C@@H](N1)CO | C11H12F3NO
